US03941796
A solution of 3.5 g. of 2-(3,4-dimethoxyphenyl)-2-(6-phenylethyl-2-pyridyl)-1,3-dioxane in 20 ml. of 48% hydrobromic acid was heated under reflux for 20 hours. The solvent was removed under reduced pressure and industrial methylated spirit was evaporated several times from the residue which crystallized upon trituration with ethyl acetate. Recrystallization from methanolethyl acetate yielded (3,4-dihydroxyphenyl) (6-phenylethyl-2-pyridyl) ketone hydrobromide, m.p. 181°C. Analysis: Calculated for C20H18NO3Br: C, 60.0; H, 4.5; N, 3.5; Br, 20.0. Found: C, 60.2; H, 4.7; N, 3.6; Br, 20.35.

reactant | 2-(3,4-dimethoxyphenyl)-2-(6-phenylethyl-2-pyridyl)-1,3-dioxane | COC=1C=C(C=CC1OC)C1(OCCCO1)C1=NC(=CC=C1)CCC1=CC=CC=C1 | C25H27NO4
reactant | hydrobromic acid | Br | BrH
product | (3,4-dihydroxyphenyl) (6-phenylethyl-2-pyridyl) ketone hydrobromide | Br.C1(=CC=CC=C1)CCC1=CC=CC(=N1)C(=O)C1=CC(=C(C=C1)O)O | InChI=1S/C20H17NO3.BrH/c22-18-12-10-15(13-19(18)23)20(24)17-8-4-7-16(21-17)11-9-14-5-2-1-3-6-14;/h1-8,10,12-13,22-23H,9,11H2;1H
